US04053588
b. L-pyroglutamic acid n-butyl amide
7.5 g (20 mmols) of L-pyroglutamic acid pentachlorophenyl ester and 1.75 g (2.4 mmols) of n-butyl amine were stirred in 100 ml of tetrahydrofurane for 5 hours. The solvent was distilled off. The residue was dissolved in methanol and treatment with strongly basic and then with strongly acidic ion exchangers followed. After filtration, methanol was distilled off. The oily residue was dissolved and precipitated with petroleum ether. After a prolonged period of time, the product, which has precipitated in oily form, became solid. It was filtered off, washed with petroleum ether and dried under vacuum.

reactant | L-pyroglutamic acid pentachlorophenyl ester | 20 mmols, 7.5 g | ClC1=C(C(=C(C(=C1OC([C@H]1NC(CC1)=O)=O)Cl)Cl)Cl)Cl | C11H6Cl5NO3
reactant | n-butyl amine | 2.4 mmols, 1.75 g | C(CCC)N | C4H11N
solvent | tetrahydrofurane | 100 ml | O1CCCC1 | C4H8O
product | L-pyroglutamic acid n-butyl amide | C(CCC)NC([C@H]1NC(CC1)=O)=O | C9H16N2O2
